US07365095B2
To a solution of [8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.33 g, 0.748 mmol) in anhydrous dimethyl sulfoxide (1.2 mL) was added a solution of methylamine (2.0 M in tetrahydrofuran, 3.74 mL, 7.48 mmol) and the mixture heated to 60° C. in a sealed vial for 2 days. The cooled reaction mixture was then poured into 2.0 M aqueous sodium hydroxide solution (40 mL) and the product extracted with ethyl acetate (50 mL). The separated organic extract was washed with water (50 mL), and saturated brine (50 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a brown syrup. Purification by flash chromatography using a solvent gradient of 0 to 5% ammonia saturated methanol solution in dichloromethane gave 101 mg (45%) of {[8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}methylamine as a yellow syrup. The product was dissolved 2-propanol (1 mL) and diethyl ether (2 mL), a solution of hydrogen chloride (1.0 M in diethyl ether, 0.33 mL, 0.33 mmol) was added followed by hexane (3 mL). The resulting precipitate was filtered to afford 100 mg (39%) of {[8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}methylamine hydrochloride as a tan crystalline solid. HRMS: calcd for C17H15ClFNO+H+, 304.08990. found (ESI, [M+H]+), 304.0891.

reactant | [8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.748 mmol, 0.33 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2C=C1)F)C1=C(C=CC=C1)Cl | C23H18ClFO4S
reactant | methylamine | 7.48 mmol, 2.0 M, 3.74 mL | CN | CH5N
reactant | sodium hydroxide | 2.0 M, 40 mL | [OH-].[Na+]
solvent | dimethyl sulfoxide | 1.2 mL | CS(=O)C | C2H6OS
product | {[8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}methylamine | 101 mg, 45% | ClC1=C(C=CC=C1)C=1C=C(C=C2C=CC(OC12)CNC)F | C17H15ClFNO
